US06194601B1
(Iodomethyl)triphenylphosphonium iodide
A solution of triphenylphosphine (6.56 g, 25 mmol) and diiodomethane (8.7 g, 32.5 mmol) in benzene (25 mL) was heated at 60° C. for 20 hours. The mixture was cooled to room temperature and the precipitated salt was collected by filtration, washed with benzene and dried to give the title material (7.38 g, 56%).

reactant | triphenylphosphine | 25 mmol, 6.56 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diiodomethane | 32.5 mmol, 8.7 g | ICI | CH2I2
solvent | benzene | 25 mL | C1=CC=CC=C1 | C6H6
product | (Iodomethyl)triphenylphosphonium iodide | 7.38 g, 56% | [I-].IC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C19H17IP.HI/c20-16-21(17-10-4-1-5-11-17,18-12-6-2-7-13-18)19-14-8-3-9-15-19;/h1-15H,16H2;1H/q+1;/p-1
